US06933311B2
1-methyl-1H-indazol-4-amine
1-Methyl-4-nitro-1H-indazole (6.1 g; 35.4 mmol) and 10% Pd/carbon (500 mg) were combined in ethanol and hydrogenated in a Parr apparatus at 60 PSI hydrogen at 50° C. for 1 hour. The mixture was allowed to cool to ambient temperature, filtered through Celite, and concentrated under reduced pressure to provide the title compound. 1H NMR (DMSO-d6) δ 8.02 (s, 1H), 7.02 (t, 1H), 6.62 (d, 1H), 6.14 (d, 1H), 5.75 (s, 2H), 3.90 (s, 2H).

reactant | 1-Methyl-4-nitro-1H-indazole | 35.4 mmol, 6.1 g | CN1N=CC2=C(C=CC=C12)[N+](=O)[O-] | C8H7N3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd carbon | 500 mg | [Pd].[C]
product | 1-methyl-1H-indazol-4-amine | CN1N=CC=2C(=CC=CC12)N | C8H9N3
